Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine / adhesive tape / Percocet
 
Attending: ___.
 
Chief Complaint:
Recurrent chest pain, fatigue
 
Major Surgical or Invasive Procedure:
Coronary Artery Bypass Grafting x 2 (left internal mammary 
artery to the left anterior descending coronary artery; 
saphenous vein graft to the obtuse marginal branch)
 
History of Present Illness:
Mrs. ___ is a ___ year old female with multiple cardiac risk 
factors who
presented with recurrent chest pain concerning for angina. 
Stress test was notable for mild anteroseptal ischemia. 
Subsequent cardiac catheterization showed 60% left main lesion. 
Of note, she has history of SVT. She reported
occasional episodes of palpitations and diaphoresis sometimes 
associated with chest pain. These episodes occurred several 
times per week.  Based upon the above findings, she was referred 
to Dr. ___ surgical revascularization.
 
Past Medical History:
1.  Hypertension
2.  Dyslipidemia
3.  Type II Diabetes Mellitus
4.  History of SVT
5.  Abdominal Aortic Aneurysm - incidental finding on cath

Past Surgical History: 
1.  s/p Open Cholecystectomy
2.  s/p Appendectomy

 
Social History:
___
Family History:
Father - died of myocardial infarction in his ___
 
Physical Exam:
HR: 77  BP: 133/77  RR: 16  O2 sat: 99% RA
Height: 61 inches    Weight: 145 lbs

General: Well-developed female in no acute distress
Skin: Warm [X] Dry [X] Intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X] JVD []
Chest: Lungs clear bilaterally [X]
Heart: RRR [X], No murmur/rub/Gallop
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X] Edema -, Slight rash on 
bilateral forearms. 
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Discharge Exam:

Carotid Bruit    Right: -   Left: -

Discharge Exam:
VS: T: 98.3  HR: 80-90's SR  BP: 98-111/60  Sats: 96% RA  
WT: 65 Kg preop 65.7 Kg
General: ___ year-old female in no apparent distress
HEENT: normocephalic
Card: RRR normal S1,S2 no murmur
Resp: clear breath sounds throughout
GI: benign
Extr: warm no edema
Wound: sternal and RLE clean dry intact no erythema. sternum 
stable
Neuro: awake, alert oriented. ambulating in halls
 
Pertinent Results:
Cardiac Catheterization
Right dominant system.  Left main coronary artery with ostial 
60% stenosis. Left anterior descending and left circumflex 
arteries had no aniographically apparent coronary artery 
disease. The right coronary artery had proximal 30% lesion. 
Estimated LVEF was 60%. Abdominal aortogram showed distal 
aneurysm.

Labs:
___ WBC-7.1 RBC-3.11* Hgb-9.5* Hct-27.8* MCV-90 MCH-30.5 
MCHC-34.0 RDW-12.8 Plt ___
___ WBC-7.6# RBC-3.29*# Hgb-10.2*# Hct-28.6*# MCV-87 
MCH-30.9 MCHC-35.5* RDW-12.8 Plt ___

___ Glucose-158* UreaN-12 Creat-0.6 Na-129* K-4.2 Cl-91* 
HCO3-34
___ Glucose-128* UreaN-11 Creat-0.5 Na-127* K-4.1 Cl-90* 
HCO3-33
___ Glucose-148* UreaN-10 Creat-0.6 Na-130* K-4.1 Cl-92* 
HCO3-29 
___ UreaN-9 Creat-0.4 Na-137 K-3.3 Cl-108 HCO3-23 

___ Mg-1.9
___ Hgb-8.7* calcHCT-26

___ MRSA SCREEN (Final ___:    No MRSA isolated. 

Chest X-Ray ___: There is evidence of bilateral basal 
atelectasis, left more than right.  In addition, a minimal left 
pleural 
effusion cannot be excluded.  The sternal wires and the 
postoperative clips are in unchanged position.  No overt 
pulmonary edema.  No pneumothorax. 

 
Brief Hospital Course:
She was admitted to ___ on ___ and was taken to the 
operating room.  She underwent Coronary Artery Bypass Grafting x 
2 (left internal mammary artery to the left anterior descending 
coronary artery; saphenous vein graft to the obtuse marginal 
branch).  She tolerated the procedure well and post-operatively 
was transferred to the CVICU in stable condition for recovery 
and invasive monitoring. 
She weaned from sedation, awoke neurologically intact and was 
extubated on POD 1.  She was weaned from inotropic and 
vasopressor support. She remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery.  Chest 
tubes and pacing wires were discontinued without complication.  

Respiratory: aggressive pulmonary toilet and nebs she titrated 
off oxygen.

Cardiac: Beta-blockers were titrated for rate control Lopressor 
50 mg tid.  She remained in sinus rhythm without ectopy.  Blood 
pressure was initially high 130-140's her losartan 50 mg was 
restarted but required titration down to 25 mg daily for SBP 
98-111.  Aspirin and Statin were resumed.

GI: benign PPI and bowel regime continued

Renal: renal function within normal limits.  She was gently 
diuresed to her preop weight of 65.7 Kg.

Hyponatremia: Na+ 12. With free water restriction it slowly 
trend ed up. Discharge Na 129. She was asymptomatic.

Endocrine: IV insulin and sliding scale for good blood sugar 
control.  Once taken PO medication her metformin and Glyburide 
were resumed.

Disposition: She was evaluated by the physical therapy service 
for assistance with strength and mobility.  By the time of 
discharge on POD 4 she was ambulating freely, the wound was 
healing, and pain was controlled with oral analgesics.  She was 
discharged home with ___ in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. GlyBURIDE 5 mg PO BID 
3. Hydrochlorothiazide 50 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. MetFORMIN (Glucophage) 850 mg PO BID 
6. Aspirin 162 mg PO DAILY 
7. Calcium Carbonate 500 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Calcium Carbonate 500 mg PO BID:PRN indigestion 
3. GlyBURIDE 5 mg PO BID 
4. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. MetFORMIN (Glucophage) 850 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
9. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
10. Lovastatin *NF* 40 mg Oral daily Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
11. Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*5
12. Senna 2 TAB PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Coronary Artery Disease
Hypertension
Hyperlipidemia
Type II Diabetes Mellitus
History of SVT

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
1. Please shower daily including washing incisions gently with 
mild soap, no baths or swimming, and look at your incisions
2). Please NO lotions, cream, powder, or ointments to incisions
3). Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart
4). No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
5). No lifting more than 10 pounds for 10 weeks
6). Please wear a bra to reduce pulling on the sternal incision

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___